US04379032
Synthesis of (1S, 5R)-6-(1-methoxycarbonyl-2-methyl-1-propenyl)-3-phenoxymethyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one
Lithium chloride (6.7 mg) was dissolved in a mixture of 2 ml of methanol and 0.5 ml of tert-butyl alcohol. Thereto was added 72 mg of methyl ester of penicillin V to prepare an electrolyte. Electrolysis was performed at a temperature of less than -70° C. and 10 to 15 V for 160 minutes (5 F) by dipping platinum electrodes (1 cm2) in the electrolyte and passing constant current of 10 mA through the electrolyte. Thereafter, the reaction mixture was stirred at less than -10° C. for about 30 minutes and extracted with ethyl acetate. The extract was treated in the same manner as in Example 1, affording 53 mg of contemplated compound in 80% yield.

reactant | Lithium chloride | 6.7 mg | [Cl-].[Li+]
reactant | penicillin V | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)COC=3C=CC=CC3)C(=O)O)C | C16H18N2O5S
reactant | methanol | 2 ml | CO | CH4O
solvent | tert-butyl alcohol | 0.5 ml | C(C)(C)(C)O | C4H10O
catalyst | platinum | [Pt] | Pt
product | (1S, 5R)-6-(1-methoxycarbonyl-2-methyl-1-propenyl)-3-phenoxymethyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one | 53 mg, 80% yield | COC(=O)C(=C(C)C)N1[C@@H]2OC(=N[C@@H]2C1=O)COC1=CC=CC=C1 | C17H18N2O5
